US04032525
In a manner analogous to that described in Example 1, 4-chloro-2-iodobenzoic acid is reacted with 3-trifluoromethyl-phenol, and there is obtained 4 -chloro-2-(3-trifluoromethyl-phenoxy)-benzoic acid having a melting point of 146° C.

reactant | 4-chloro-2-iodobenzoic acid | ClC1=CC(=C(C(=O)O)C=C1)I | C7H4ClIO2
reactant | 3-trifluoromethyl-phenol | FC(C=1C=C(C=CC1)O)(F)F | C7H5F3O
product | 4 -chloro-2-(3-trifluoromethyl-phenoxy)-benzoic acid | ClC1=CC(=C(C(=O)O)C=C1)OC1=CC(=CC=C1)C(F)(F)F | C14H8ClF3O3
